US04684722
(A) 2-[(1,3-Dioxo-2H-isoindol-2-yl)oxy]-2-propenoic acid
A solution of 2-[(1,3-dioxo-2H-isoindol-2-yl)-oxy]-2-propenoic acid, t-butyl ester (49.9 g, 0.173 mole) in methylene chloride (300 ml) and anisole (150 ml) was treated with trifluoroacetic acid (300 ml). After stirring overnight at room temperature, 800 ml of dry toluene was added and the reaction mixture was concentrated in vacuo. The residue was triturated twice with hexane to give 39.6 g of the title compound.

reactant | 2-[(1,3-dioxo-2H-isoindol-2-yl)-oxy]-2-propenoic acid, t-butyl ester | 0.173 mole, 49.9 g | O=C1N(C(C2=CC=CC=C12)=O)OC(C(=O)OC(C)(C)C)=C | C15H15NO5
reactant | trifluoroacetic acid | 300 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | anisole | 150 ml | C1(=CC=CC=C1)OC | C7H8O
product | 2-[(1,3-Dioxo-2H-isoindol-2-yl)oxy]-2-propenoic acid | 39.6 g | O=C1N(C(C2=CC=CC=C12)=O)OC(C(=O)O)=C | C11H7NO5
